US05834493
3-[(5-methoxy-1H-indol-3-yl)methyl]-1-methyl-pyridinium iodide
Methyl iodide (10.4 ml; 0.167 mol) was added to a stirring mixture of compound of Description 1 [5-methoxy-3-(pyridin-3-ylmethyl)-1H-indole] (5.3 g; 0.022 mol) in acetone (150 ml). The reaction mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated under vacuum. The residual solid was washed with diethyl ether giving the desired compound (7.5 g).

reactant | Methyl iodide | 0.167 mol, 10.4 ml | CI | CH3I
reactant | 5-methoxy-3-(pyridin-3-ylmethyl)-1H-indole | COC=1C=C2C(=CNC2=CC1)CC=1C=NC=CC1 | C15H14N2O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 3-[(5-methoxy-1H-indol-3-yl)methyl]-1-methyl-pyridinium iodide | [I-].COC=1C=C2C(=CNC2=CC1)CC=1C=[N+](C=CC1)C | InChI=1S/C16H17N2O.HI/c1-18-7-3-4-12(11-18)8-13-10-17-16-6-5-14(19-2)9-15(13)16;/h3-7,9-11,17H,8H2,1-2H3;1H/q+1;/p-1
